US04426524
A stirred solution of 7.3 g (0.023 mol) of 2-bromo-5-(3-bromomethylphenyl)furan in 50 mL of acetic acid was cooled in an ice-water bath, and 3.4 g (0.035 mol) of potassium acetate was added. Upon complete addition, the reaction mixture was heated to reflux temperature and stirred for 19 hours. The reaction mixture was transferred to a separatory funnel, diluted with 100 mL of water, then extracted with two portions of 150 mL each of chloroform. The combined extracts were washed with one portion of 150 mL of a saturated aqueous solution of sodium chloride, two portions of 150 mL each of a saturated aqueous solution of sodium bicarbonate, and finally with one portion of 200 mL of a saturated aqueous solution of sodium chloride. The organic layer was dried with magnesium sulfate, filtered, and the filtrate concentrated under reduced pressure to give a residual oil. The oil was subjected to column chromatography on silica gel, eluting with hexane: chloroform (2:1). The appropriate fractions were combined to give 3.8 g of 3-(2-bromo-5-furanyl)phenylmethyl acetate.

reactant | 2-bromo-5-(3-bromomethylphenyl)furan | 0.023 mol, 7.3 g | BrC=1OC(=CC1)C1=CC(=CC=C1)CBr | C11H8Br2O
reactant | potassium acetate | 0.035 mol, 3.4 g | C(C)(=O)[O-].[K+]
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
solvent | water | 100 mL | O | H2O
product | 3-(2-bromo-5-furanyl)phenylmethyl acetate | 3.8 g | C(C)(=O)OCC1=CC(=CC=C1)C1=CC=C(O1)Br | C13H11BrO3
